US07851490B2
3-Thiazol-2-yl-phenylamine
To a solution of 5-chloro-2-(3-nitro-phenyl)-thiazole (20.0 g, 69.6 mmol) in THF (260 ml) was added hydrazine monohydrate (13.5 ml, 278 mmol) and Raney nickel (2 g). The resultant mixture was stirred at ambient conditions for 1 hour and then filtered through celite. The filtrate was evaporated to dryness and the filtrate was partitioned between ethyl acetate and saturated, aqueous sodium carbonate. The organic layer was dried over sodium sulphate and concentrated in vacuo. The concentrate was eluted through silica gel with a mixture of ethyl acetate and ligroin (1:3 v/v) to afford the desired product (10.6 g, 72%).

reactant | 5-chloro-2-(3-nitro-phenyl)-thiazole | 69.6 mmol, 20.0 g | ClC1=CN=C(S1)C1=CC(=CC=C1)[N+](=O)[O-] | C9H5ClN2O2S
reactant | hydrazine monohydrate | 278 mmol, 13.5 ml | O.NN
solvent | THF | 260 ml | C1CCOC1 | C4H8O
catalyst | Raney nickel | 2 g | [Ni] | Ni
product | 3-Thiazol-2-yl-phenylamine | 10.6 g, 72% | S1C(=NC=C1)C=1C=C(C=CC1)N | C9H8N2S
